US06248739B1
N-(4-Chlorobenzyl)-1-[2-(2-ethoxyethoxy)ethyl]-6-(4-morpholinylmethyl)-4-oxo-1,4-dihydro-3-quinolinecarboxamide
A dry flask containing N-(4-chlorobenzyl)-4-hydroxy-6-(4-morpholinylmethyl)-3-quinolinecarboxamide (0.20 gm) from Preparation No. 40 in dry THF (5 mL) under an argon atmosphere is added triphenylphosphine (164 mg), 2-ethoxy-(2-ethoxy)ethanol (0.09 mL) and diethyl azodicarboxylate (0.10 mL). The mixture is stirred at room temperature overnight. The reaction mixture is again treated with triphenylphosphine (164 mg), 2-ethoxy-(2-ethoxy)ethanol (0.09 mL) and diethyl azodicarboxylate (0.10 mL). After 4 hours, the reaction mixture is concentrated under reduced pressure. The crude product is purified by flash column chromatography eluting with acetone and then by recrystallization from ethyl acetate-heptane to afford 0.18 gm of the title compound as a white solid.

reactant | N-(4-chlorobenzyl)-4-hydroxy-6-(4-morpholinylmethyl)-3-quinolinecarboxamide | 0.20 gm | ClC1=CC=C(CNC(=O)C=2C=NC3=CC=C(C=C3C2O)CN2CCOCC2)C=C1 | C22H22ClN3O3
reactant | triphenylphosphine | 164 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-ethoxy-(2-ethoxy)ethanol | 0.09 mL | C(C)OCC(O)OCC | C6H14O3
reactant | diethyl azodicarboxylate | 0.10 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 164 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-ethoxy-(2-ethoxy)ethanol | 0.09 mL | C(C)OCC(O)OCC | C6H14O3
reactant | diethyl azodicarboxylate | 0.10 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | N-(4-Chlorobenzyl)-1-[2-(2-ethoxyethoxy)ethyl]-6-(4-morpholinylmethyl)-4-oxo-1,4-dihydro-3-quinolinecarboxamide | 0.18 gm | ClC1=CC=C(CNC(=O)C2=CN(C3=CC=C(C=C3C2=O)CN2CCOCC2)CCOCCOCC)C=C1 | C28H34ClN3O5
